US06288096B1
9.09 g (79.6 mmole) methanesulfonyl chloride was slowly added to a solution of 5 g (36.2 mmole) 3-hydroxyphenethyl alcohol and 9.14 g (90.5 mmole) triethylamine in 150 ml dichloromethane at 0° C. After stirring at room temperature over night the salts were filtered off, the organic phase was washed with sodium bicarbonate and brine, dried (magnesium sulfate) and evaporated in vacuo to give 9.3 g (yield 87%) of 3-(methylsulfonyloxy)phenethyl methanesulfonate.

reactant | methanesulfonyl chloride | 79.6 mmole, 9.09 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-hydroxyphenethyl alcohol | 36.2 mmole, 5 g | OC=1C=C(CCO)C=CC1 | C8H10O2
reactant | triethylamine | 90.5 mmole, 9.14 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-(methylsulfonyloxy)phenethyl methanesulfonate | 9.3 g, yield 87% | CS(=O)(=O)OCCC1=CC(=CC=C1)OS(=O)(=O)C | C10H14O6S2
